* PLO_3V3 -- LOW pulse on falling edge / rising passthrough
* AutoHV BiCMOS 180 PDK | 3.3 V domain (NMOS3V3/PMOS3V3, L = 0.35 um)
* ~20 ns pulse width at the nominal corner (case=0/TT, nominal Vdd, 27 C).
* Methodology, area and PVT/Monte-Carlo envelope: ../REPORT.md, ../CHARACTERIZATION.md.
*
* Port order:  in  out  vdd  gnd
* The calling deck must also include the PDK device library, e.g.:
*   .include "<repo-root>/autohv_bicmos180_case.lib"
*   .include "<this-dir>/PLO_3V3.lib"
*   X1 a y vdd 0 PLO_3V3
*
* When several RC cells share one transient deck, add `.option method=gear maxord=2`.

.subckt PLO_3V3 in out vdd gnd
XI1 nIN in vdd vdd PMOS3V3 W=0.95u L=0.35u
XI2 nIN in gnd gnd NMOS3V3 W=0.4u L=0.35u
XR  nIN nC RPOLY_HI L=58.1250u W=0.5u
XC  nC  gnd CMIM_HI L=5.3600u W=5.3600u
XBP nC in gnd gnd NMOS3V3 W=0.8u L=0.35u   $ pull-down bypass (fast rising out)
XS1 s1 nC gnd gnd NMOS3V3 W=0.4u L=0.35u
XS2 dco nC s1 gnd NMOS3V3 W=0.4u L=0.35u
XS3 s2 nC vdd vdd PMOS3V3 W=0.95u L=0.35u
XS4 dco nC s2 vdd PMOS3V3 W=0.95u L=0.35u
XS5 vdd dco s1 gnd NMOS3V3 W=0.4u L=0.35u
XS6 gnd dco s2 vdd PMOS3V3 W=0.95u L=0.35u
XPI1 dbar dco vdd vdd PMOS3V3 W=0.95u L=0.35u
XPI2 dbar dco gnd gnd NMOS3V3 W=0.4u L=0.35u
XG1 p1  in   vdd vdd PMOS3V3 W=0.95u L=0.35u
XG2 nnr dbar p1  vdd PMOS3V3 W=0.95u L=0.35u
XG3 nnr in   gnd gnd NMOS3V3 W=0.4u L=0.35u
XG4 nnr dbar gnd gnd NMOS3V3 W=0.4u L=0.35u
XO1 out nnr vdd vdd PMOS3V3 W=0.95u L=0.35u
XO2 out nnr gnd gnd NMOS3V3 W=0.4u L=0.35u
.ends PLO_3V3
